US04866089
Preparation of 6-methoxy-7-sec. butoxy-2,2-dimethyl-4-chromanone
In 40 ml of a 5% sodium hydroxide solution 5.2 g (20 millimoles) of 6-hydroxy-7-sec. butoxy-2,2-dimethyl-4-chromanone are dissolved whereupon 80 ml of dichloro methane and 0.5 g of triethyl benzyl ammonium chloride are added and the mixture is intensively stirred at room temperature for 30 minutes. After the addition of 4.25 g (1.9 ml, 30 millimoles) of methyl iodide the reaction mixture is stirred for further 2 hours. The organic phase is separated, washed twice with 50 ml of water each, dried over sodium sulfate and the solvent is removed. The residue is crystallized from 90% ethanol. Thus 5.34 g of the desired compound are obtained, yield 96%. Mp.: 92.5°-93° C.

reactant | sodium hydroxide | 20 millimoles, 5.2 g | [OH-].[Na+]
reactant | methyl iodide | 30 millimoles, 1.9 ml, 4.25 g | CI | CH3I
reactant | 6-hydroxy-7-sec. butoxy-2,2-dimethyl-4-chromanone | OC=1C=C2C(CC(OC2=CC1OC(C)CC)(C)C)=O | C15H20O4
solvent | dichloro methane | 80 ml | ClCCl | CH2Cl2
catalyst | triethyl benzyl ammonium chloride | 0.5 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 6-methoxy-7-sec. butoxy-2,2-dimethyl-4-chromanone | 5.34 g, yield 96% | COC=1C=C2C(CC(OC2=CC1OC(C)CC)(C)C)=O | C16H22O4
